US06005113
To a solution of 6.3 mL of n-butyllithium (2.5 M solution in hexane) in 50 mL of dry ether is added a solution of 3.0 g (15.8 mmol) of 2-(4-methoxyphenyl)thiophene in 20 mL of dry ether under N2 atmosphere. The mixture is stirred at room temperature for 3 hours and then heated at reflux for 30 minutes. After the reaction mixture is cooled to -78° C. with dry ice and acetone bath, dry CO2 gas is bubbled through the reaction mixture for 3 hours and the resulting solution is stirred at room temperature overnight. The reaction mixture is diluted with 200 mL of chloroform, washed with 1% HCl solution (200 mL) and with water (2×200 mL). The separated organic layer is dried over anhydrous Na2SO4 and concentrated under reduced pressure to give 1.8 g (50%) of 5-(4-methoxyphenyl)-2-thienoic acid.

reactant | n-butyllithium | 2.5 M, 6.3 mL | C(CCC)[Li]
reactant | 2-(4-methoxyphenyl)thiophene | 15.8 mmol, 3.0 g | COC1=CC=C(C=C1)C=1SC=CC1 | C11H10OS
reactant | dry ice | C(=O)=O | CO2
reactant | acetone | CC(=O)C | C3H6O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 5-(4-methoxyphenyl)-2-thienoic acid | 1.8 g, 50% | COC1=CC=C(C=C1)C1=CC=C(S1)C(=O)O | C12H10O3S
